US04175135
A 500 ml round bottom flask was charged with 10.0 g (0.0416 mol) of 6-(2'-chlorophenyl)-5-ketohexanoic acid and 100 ml of 72% sulfuric acid. The reaction mixture was stirred and heated to 120° C. for 51/2 hours (oil bath), then poured into 600 ml of an ice water mixture. A tacky, white solid formed, and this was extracted into 300 ml of methylene chloride. The CH2Cl2 solution was washed six times with water, dried over anhydrous MgSO4 and stripped to leave 8.87 g of a tacky, white solid. This material was recrystallized from ethyl acetate to give 5.85 g (63%) of 2-(2'-chlorophenyl)-1,3-cyclohexanedione as a white, crystalline solid, m.p. 148.5°-149° C.

reactant | 6-(2'-chlorophenyl)-5-ketohexanoic acid | 0.0416 mol, 10.0 g | ClC1=C(C=CC=C1)CC(CCCC(=O)O)=O | C12H13ClO3
reactant | sulfuric acid | 100 ml | S(O)(O)(=O)=O | H2O4S
product | 2-(2'-chlorophenyl)-1,3-cyclohexanedione | 5.85 g, 63% | ClC1=C(C=CC=C1)C1C(CCCC1=O)=O | C12H11ClO2
